US06864367B2
To a solution of 5-(4-bromo-2-formyl-N-methylanilino)pentanoic acid (3.0 g) in DMF(8 ml), potassium carbonate (1.6 g) and a solution of methyl iodide/DMF (1.6 g/2 ml) were added at room temperature, and the resulting mixture was stirred for 2 hours. Ethyl acetate and water were added to the mixture, and the organic layer was separated, washed with water, dried over anhydrous sodium sulfate, and concentrated to give yellow oil of 5-(4-bromo-2-formyl -N-methylanilino)pentanoic acid methylester (3.0 g, yield 97%). 1H-NMR(CDCl3, δ, 300 MHz): 1.58-1.64(4H, m), 2.28(2H, t, J=6.8 Hz), 2.83(3H, s), 3.09(2H, t, J=6.8 Hz), 3.63(3H, s), 6.95(1H, d, J=8.8 Hz), 7.51(1H, dd, J=8.8, 2.4 Hz), 7,83(1H, d, J=2.4 Hz), 10.14(1H, s). FAB-MS ([M+Na]+): 350. IR(neat, cm−1): 1735, 1681.

reactant | 5-(4-bromo-2-formyl-N-methylanilino)pentanoic acid | 3.0 g | BrC1=CC(=C(N(C)CCCCC(=O)O)C=C1)C=O | C13H16BrNO3
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide DMF | 2 ml, 1.6 g | CI.CN(C)C=O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(4-bromo-2-formyl -N-methylanilino)pentanoic acid methylester | 3.0 g, yield 97% | COC(CCCCN(C1=C(C=C(C=C1)Br)C=O)C)=O | C14H18BrNO3
